US06995144B2
1-(tert-Butoxycarbonyl)-4-[(2-fluorophenylsulfinyl)methyl]piperidine
After dissolving 79 mg of 1-(tert-butoxycarbonyl)-4-[(2-fluorophenylthio)methyl]piperidine in 3 ml of chloroform, 42 mg of 3-chloroperbenzoic acid was added while cooling on ice, and the mixture was stirred for 30 minutes. Aqueous sodium thiosulfate solution was added to the reaction solution, and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (68 mg, 82% yield).

reactant | 1-(tert-butoxycarbonyl)-4-[(2-fluorophenylthio)methyl]piperidine | 79 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CSC1=C(C=CC=C1)F | C17H24FNO2S
reactant | 3-chloroperbenzoic acid | 42 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(tert-Butoxycarbonyl)-4-[(2-fluorophenylsulfinyl)methyl]piperidine | 68 mg, 82% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)CS(=O)C1=C(C=CC=C1)F | C17H24FNO3S
